US05719141
c) 2(R)-Benzyl-9-benzyloxy-5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7,7-dimethyl-nonanoic acid (N-butyl)amide
A solution of 502 mg of 3(R)-benzyl-5(S)-[5-benzyloxy-1 (S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxo-tetrahydrofuran in 8.5 ml of butylamine is stirred at room temperature for 20 h and concentrated and the residue is purified by chromatography over silica gel (mobile phase A): Rf (A)=0.47; FAB-MS: (M+H)+ =569.

reactant | 3(R)-benzyl-5(S)-[5-benzyloxy-1 (S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxo-tetrahydrofuran | 502 mg | C(C1=CC=CC=C1)[C@H]1C(O[C@@H](C1)[C@H](CC(CCOCC1=CC=CC=C1)(C)C)NC(=O)OC(C)(C)C)=O | C30H41NO5
solvent | butylamine | 8.5 ml | C(CCC)N | C4H11N
product | 2(R)-Benzyl-9-benzyloxy-5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7,7-dimethyl-nonanoic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](CC(CCOCC1=CC=CC=C1)(C)C)NC(=O)OC(C)(C)C)O)CC1=CC=CC=C1)=O | C34H52N2O5
